US06069256
The preparation of nizatidine by fusing 4-chloromethyl-2-dimethylaminomethylthiazole with N-(2-mercaptoethyl)-N'-methyl-2-nitro-1,1-ethenediamine has been suggested generically in EP 49618. However, we have found that N-(2-mercaptoethyl)-N'-methyl-2-nitro-1,1-ethenediamine cannot be isolated and stored. Our attempts to prepare this compound have always produced the disulphide, N-methyl-[N'-[2-(N"-methyl-2-nitro-1,1-ethenediamine)ethyldisulphanyl]ethyl]-2-nitro-1,1-ethenediamine and 3-methylamino-5,6-dihydro-[1,4]-thiazin-2-one oxime.

reactant | nizatidine | CN/C(=C\[N+](=O)[O-])/NCCSCC1=CSC(=N1)CN(C)C | C12H21N5O2S2
reactant | 4-chloromethyl-2-dimethylaminomethylthiazole | ClCC=1N=C(SC1)CN(C)C | C7H11ClN2S
reactant | N-(2-mercaptoethyl)-N'-methyl-2-nitro-1,1-ethenediamine | SCCNC(=C[N+](=O)[O-])NC | C5H11N3O2S
product | 3-methylamino-5,6-dihydro-[1,4]-thiazin-2-one oxime | CNC=1C(SCCN1)=NO | C5H9N3OS
